US06251926B1
Ethyl Z-2-(4-methoxyphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (1.20 g) was dissolved in tetrahydrofuran (5 ml)-methanol (10 ml), and 0.5N aqueous solution of sodium hydroxide (10 ml) was added and the mixture was heated under reflux for 1 hour. 1N HCl (5.5 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate to obtain Z-2-(4-methoxyphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid (1.02 g, yield 90%) as colorless crystals. m.p. 183-184° C.

reactant | Ethyl Z-2-(4-methoxyphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 1.20 g | COC1=CC=C(C=C1)/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H28N2O6
reactant | HCl | 1N, 5.5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | Z-2-(4-methoxyphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid | 1.02 g, yield 90% | COC1=CC=C(C=C1)/C(/C(=O)O)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H24N2O6
